US07943788B2
2,2′-Bithiophene (7.40 g) in tetrahydrofuran (90 ml) was cooled to −78° C. under argon atmosphere, and thereto were added dropwise n-butyl lithium (1.59 M hexane solution, 28.0 ml). The mixture was stirred at 0° C. for one 30 minutes, and cooled again to −78° C. Added thereto was N-fluorobenzenesulfonimide (15.5 g), and the mixture was gradually warmed, and stirred at room temperature for 17 hours. The reaction mixture was poured into ice-cold water, and the solution was extracted with hexane twice, and the extract was washed successively with water and brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane) to give 2-(5-fluoro-2-thienyl)thiophene (5.89 g) as colorless oil.

reactant | 2,2′-Bithiophene | 7.40 g | S1C(=CC=C1)C=1SC=CC1 | C8H6S2
reactant | n-butyl lithium | 1.59 M, 28.0 ml | C(CCC)[Li]
reactant | N-fluorobenzenesulfonimide | 15.5 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 2-(5-fluoro-2-thienyl)thiophene | 5.89 g | FC1=CC=C(S1)C=1SC=CC1 | C8H5FS2
